US07919519B2
2-Fluoro-4-formylbenzoyl chloride
To a slurry of 2-fluoro-4-formylbenzoic acid (0.531 g, 3.16 mmol) 10 mL DCM was added oxalyl chloride (0.168 mL, 1.89 mmol) and catalytic DMF (2 drops). The reaction was allowed to stir under a positive pressure of argon with a needle outlet to air. After 2 h, a quenched aliquot of the reaction (MeOH) was determined to contain no acid. The reaction was concentrated in vacuo and dried on a hood pump for 10 min to give a yellow solid, which was used without further purification.

reactant | 2-fluoro-4-formylbenzoic acid | 3.16 mmol, 10 mL, 0.531 g | FC1=C(C(=O)O)C=CC(=C1)C=O | C8H5FO3
reactant | oxalyl chloride | 1.89 mmol, 0.168 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 2-Fluoro-4-formylbenzoyl chloride | FC1=C(C(=O)Cl)C=CC(=C1)C=O | C8H4ClFO2
